US04229575
3-[(Acetyloxy)methyl]-7-[[3-ethoxy-1,3-dioxo-2-(2,3-dihydro-5-benzofuranyl)propyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-(acetyloxy)benzyl ester
To a suspension of 6 mmole of 3-[(acetyloxy)methyl]-7-[[3-ethoxy-1,3-dioxo-2-(2,3-dihydro-5-benzofuranyl)-propyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, sodium salt in 40 ml of dimethylformamide (DMF) is added 2 equivalents of p-(acetyloxy)-benzyl alcohol. The mixture is cooled to 0° C. after which 6.8 mM of dicyclohexylcarbodiimide in 10 ml of DMF is added dropwise with stirring. The mixture is stirred at 0° C. for 1 hour and an addition 4 hours at room temperature. Dicyclohexylurea is removed by filtration. The filtrate is diluted with chloroform, washed with water, dried over magnesium sulfate, filtered and evaporated in vacuo to give the title compound.

reactant | 3-[(acetyloxy)methyl]-7-[[3-ethoxy-1,3-dioxo-2-(2,3-dihydro-5-benzofuranyl)-propyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 6 mmole | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(C(C(=O)OCC)C=1C=CC2=C(CCO2)C1)=O)=O)C(=O)O | C23H24N2O9S
reactant | sodium | [Na] | Na
reactant | p-(acetyloxy)-benzyl alcohol | 2 equivalents | C(C)(=O)OC1=CC=C(CO)C=C1 | C9H10O3
reactant | dicyclohexylcarbodiimide | 6.8 mM | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
product | 3-[(Acetyloxy)methyl]-7-[[3-ethoxy-1,3-dioxo-2-(2,3-dihydro-5-benzofuranyl)propyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-(acetyloxy)benzyl ester | C(C)(=O)OC1=CC=C(COC(=O)C=2N3C(C(C3SCC2COC(C)=O)NC(C(C(=O)OCC)C=2C=CC3=C(CCO3)C2)=O)=O)C=C1 | C32H32N2O11S
